US04560691
A mixture containing 12.6 g of 5-(4-methoxyphenyl)-1,6-naphthyridin-2(1H)-one and 100 ml of 40% aqueous hydrogen bromide was refluxed for 14 hours, cooled and evaporated on a rotary evaporator. The remaining solution was neutralized by adding aqueous ammonium hydroxide solution. The resulting yellow solid was collected, washed with water, dried, recrystallized from dimethylformamide and dried in a vacuum oven at 90°-95° C. to yield 11.2 g of 5-(4-hydroxyphenyl)-1,6-naphthyridin-2(1H)-one, m.p. >300° C.

reactant | 5-(4-methoxyphenyl)-1,6-naphthyridin-2(1H)-one | 12.6 g | COC1=CC=C(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C15H12N2O2
solvent | hydrogen bromide | 100 ml | Br | BrH
product | 5-(4-hydroxyphenyl)-1,6-naphthyridin-2(1H)-one | 11.2 g | OC1=CC=C(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C14H10N2O2
